Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Inderal LA
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per admitting resident: ___ yo woman PMH of HTN presented to the 
ED with abdominal pain she has been having abdominal pain for 
the last ___ days she went to the UC where she was given 
Augmentin for presumptive diverticulitis. Had abdominal CT 9 
days ago showing diverticulosis but no diverticulitis and 
Rt adnexal cyst. she returned to ___ 3 days ago c/o abdominal 
pain that was presumably associated with her recent ABx course. 
She woke up last night with severe abdominal pain and streak of 
blood in her stool. 
 
Past Medical History:
HTN 
Varicose veins 
Carcinoma in situ of cervix uteri 
Mitral valve prolapse 
HEADACHE - MIGRAINE, UNSPEC 
History of atypical/dysplastic nevus 
Cancer of skin, squamous cell 
Thyroid nodule 
Rec Urinary tract infection 
Palpitations 
Osteopenia 
Lumbosacral spondylosis without myelopathy 
Insomnia 
Cervical high risk HPV (human papillomavirus) test positive 
Diverticulosis 
Nuclear sclerotic cataract 
PVD (posterior vitreous detachment) 

PSH: 
rt inguinal hernia and umbilical hernia repair done ___ years
ago
varicose vein stripping

 
Family History:
glaucoma in father  macular degeneration 

 
Physical Exam:
VS:
Gen: no acute distress
Cardiac: regular rate and rhythm, NL S1S2
Resp: clear to auscultation, bilaterally; no respiratory 
distress
Abdomen: soft, non-tender, non-distended, no rebound tenderness 
or guarding
Ext: No lower extremity edema or tenderness, bilaterally; 2+ DP 
pulses, bilaterally
 
Pertinent Results:
LABS:
___ 03:30AM BLOOD WBC-15.7* RBC-4.26 Hgb-12.5 Hct-37.8 
MCV-89 MCH-29.3 MCHC-33.1 RDW-12.7 RDWSD-41.2 Plt ___ 
Glucose-113* UreaN-10 Creat-0.5 Na-133* K-4.2 Cl-94* HCO3-23 
AnGap-16
___ 06:07AM BLOOD Lactate-2.2*
___ 05:55AM BLOOD WBC-7.5# RBC-3.92 Hgb-11.6 Hct-34.3 
MCV-88 MCH-29.6 MCHC-33.8 RDW-12.5 RDWSD-40.3 Plt ___ 
___ PTT-33.3 ___
___ 05:55AM BLOOD ALT-11 AST-14 AlkPhos-54 TotBili-1.4 
Albumin-3.7
___ 05:29AM BLOOD WBC-5.9 RBC-3.93 Hgb-12.0 Hct-35.1 MCV-89 
MCH-30.5 MCHC-34.2 RDW-12.5 RDWSD-41.0 Plt ___ Glucose-76 
UreaN-7 Creat-0.5 Na-140 K-4.0 Cl-99 HCO3-27 AnGap-14 
Calcium-8.8 Phos-3.2 Mg-2.0

IMAGING:

___

PELVIS U.S., TRANSVAGINAL: 
1. Simple 3.6 cm right adnexal cyst.  Follow-up ultrasound is 
recommended in ___ year. 2. Small amount of fluid in the 
endometrium, which is not thickened. 3. Probable 1 cm dermoid in 
the left ovary. 4. Two small intramural fibroids. 

CT ABD & PELVIS WITH CONTRAST
1. Acute sigmoid colonic diverticulitis with a 1.9 x 1.3 x 
1.8-cm submucosal abscess and surrounding moderate fat 
stranding/developing phelgmon proximally. An adjacent small 6-mm 
focus of gas- difficult to discern if extraluminal or 
intraluminal in a diverticulum for which the connection to bowel 
is not clearly seen.  Small volume ascites. 
2. Moderate thickening of the superior wall of the bladder is 
likely secondary to adjacent sigmoid diverticulitis.  No 
evidence to suggest colovesicular fistula. 
3. Right moderate hydroureteronephrosis with delayed excretion 
of contrast, new from ___.  This could be related to the 
right adnexal lesion; however, it could also be from sigmoid 
diverticulitis. 
4. 4.3 x 3.9 x 3.5 cm right adnexal cystic lesion, unchanged in 
size from ___, but new from ___.  Given interval 
mass-effect on the passing right ureter resulting in moderate 
hydroureteronephrosis, GYN follow-up and pelvic MRI to further 
evaluate and guide management. 
5. Bilateral pelvic vein prominence, worse on the left, can be 
seen with chronic pelvic congestion syndrome in the appropriate 
clinical situation. 
6. Slight hypoattenuation of distal SMV is thought to be mixing 
artifact. 
Could consider short interval follow-up. 
RECOMMENDATION(S):  GYN follow-up and possible pelvic MRI 

 
Brief Hospital Course:
The patient presented to the Emergency Department on ___ with severe lower abdominal cramping following completion 
of Augmentin for presumed diverticulitis.  Upon arrival to ED, 
the patient was placed on bowel rest with intravenous fluids and 
antibiotics (ceftriaxone/metronidazole). She then underwent an 
abdominal/pelvic CT scan significant for acute sigmoid 
diverticulitis complicated by a 1.9 x 1.3 x 1.8 cm intramural 
abscess.  Given findings, the patient was admitted to ___ for 
observation and treatment with intravenous antibiotics.
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with oral acetaminophen and 
tramadol.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was initially kept NPO. On HD1, her diet 
was advanced and well tolerated.  Patient's intake and output 
were closely monitored; she was able to void large volumes 
without discomfort.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none. She received intravenous 
ceftriaxone and metronidazole throughout her hospitalization; 
this was transitioned to oral cefpodoxime at the time of 
discharge.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. ClonazePAM 0.5 mg PO ASDIR 
2. Probiotic and Acidophilus (Lactobac comb ___ 
300-250 million cell-mg oral DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
5. estradiol 0.01 % (0.1 mg/gram) vaginal ASDIR 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
Do not exceed 3000 mg per 24 hour period.  
2.  Cefpodoxime Proxetil 200 mg PO Q12H Duration: 10 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp 
#*20 Tablet Refills:*0 
3.  ClonazePAM 0.5 mg PO ASDIR  
4.  estradiol 0.01 % (0.1 mg/gram) vaginal ASDIR  
5.  Multivitamins 1 TAB PO DAILY  
6.  Probiotic and Acidophilus (Lactobac comb ___ 
300-250 million cell-mg oral DAILY  
7.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diverticulitis with intramural abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to hospital due to severe abdominal pain and 
findings of acute diverticulitis with abscess on an 
abdominal/pelvic CT scan.  Treatment included administration of 
intravenous antibiotics which will be transitioned to an oral 
antibiotic regimen of cefpodoxime upon discharge.  Please take 
this medication twice daily for 10 days.   

Please note the following additional instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience fevers and/or chills.
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You have return of your abdominal pain/ cramping, see blood or 
dark/black material when you vomit or have a bowel movement.
*You experience burning when you urinate, have blood in your 
urine, experience a discharge or are unable to urinate.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

 
Followup Instructions:
___